US04150025
A mixture consisting of 128 g (1.0 mole) of o-chloroaniline, 304 g of conc. hydrochloric acid and 61 g of water was maintained at 90°-95° C., and with sufficient stirring, 70 g (1.0 mole) of crotonaldehyde was added dropwise over the course of 2 hours. After the addition, the mixture was reacted further at 90°-95° C. for 1 hour. The reaction mixture was cooled, and then rendered alkaline by adding a conc. aqueous solution containing 132 g of sodium hydroxide with ice cooling. The alkaline mixture was separated into layers, and the oily layer was distilled at 2-3 mmHg to afford 72 g (0.4 mole) of 8-chloroquinaldine.

reactant | o-chloroaniline | 1.0 mole, 128 g | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | hydrochloric acid | 304 g | Cl | ClH
reactant | crotonaldehyde | 1.0 mole, 70 g | C(\C=C\C)=O | C4H6O
reactant | sodium hydroxide | 132 g | [OH-].[Na+]
solvent | water | 61 g | O | H2O
product | 8-chloroquinaldine | 0.4 mole, 72 g | ClC=1C=CC=C2C=CC(=NC12)C | C10H8ClN
